US07291631B2
Using General Procedure B, reaction of (3-amino-propyl)-carbamic acid tert-butyl ester, 6,7-dihydro-5H-quinolin-8-one and NaBH(OAc)3 in CH2Cl2 gave [3-(5,6,7,8-tetrahydro-quinolin-8-ylamino)-propyl]-carbamic acid tert-butyl ester as a light brown oil plus 15% impurity. 1H NMR (CDCl3) δ 1.43 (s, 9H), 1.77 (m, 4H), 2.00 (m, 2H), 2.80 (m, 4H), 3.24 (m, 2H), 3.74 (t, 1H, J=7.5 Hz), 5.36 (br, 1H(NH)), 7.06 (m, 1H), 7.37 (d, 1H, J=7.5 Hz), 8.39 (d, 1H, J=4.5 Hz).

reactant | (3-amino-propyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCN)=O | C8H18N2O2
reactant | 6,7-dihydro-5H-quinolin-8-one | N1=CC=CC=2CCCC(C12)=O | C9H9NO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [3-(5,6,7,8-tetrahydro-quinolin-8-ylamino)-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCNC1CCCC=2C=CC=NC12)=O | C17H27N3O2
